US08975254B2
N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide
The title compound was prepared as in Example 1 starting from morpholine and 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid. Crude product was purified by chromatography (CombiFlash, 1st column silica, eluent: 0-10% MeOH/DCM: 2nd column C-18 RP, eluent: 0-100% MeCN/water) to give 505 mg (17%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.95 (t, 1H), 3.56 (q, 1H), 3.62 (br s, 6H), 3.90 (br s, 2H), 6.34 (d, 1H), 7.02 (d, 1H), 7.08 (s, 1H), 7.62 (m, 2H), 7.85 (d, 1H), 8.61 (s, 1H), 13.94 (s, 1H).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
product | N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide | 505 mg, 17% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)N1CCOCC1 | C21H20Cl2N4O4
